US04348399
Preparation of 2,3-dihydroxypropyl-4-(hexadecylamino)phenylacetamide
A slurry of 8.0 g. of 4-(hexadecylamino)phenylacetic acid hydrochloride in 175 ml. of methylene chloride and 50 ml. of glyme containing 10 ml. of thionyl chloride is heated at reflux for 2 hours. The clear solution is concentrated in vacuo giving 9.5 g. of an amber oil. This oil is dilutd with 50 ml. of pyridine containing 0.1 g. of 4-dimethylaminopyridine and 9.1 g. of 3-amino-1,2-propanediol. The reaction is stirred for two days at room temperature. The solution is partitioned between ether and water. The water phase is extracted twice more with 100 ml. of chloroform and ether. The combined organic layer is extracted with water, dried over magnesium sulfate and evaporated to a tacky solid. The solid is recrystallized from acetone-water and then from benzene.

reactant | 4-(hexadecylamino)phenylacetic acid hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)CC(=O)O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-amino-1,2-propanediol | NCC(CO)O | C3H9NO2
reactant | pyridine | 0.1 g | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | glyme | 10 ml | C(OC)COC | C4H10O2
product | 2,3-dihydroxypropyl-4-(hexadecylamino)phenylacetamide | OC(CC(C(=O)N)C1=CC=C(C=C1)NCCCCCCCCCCCCCCCC)CO | C27H48N2O3
